US08669234B2
Pyrrolidine-1,2-dicarboxylic acid 2-[2-(7-bromo-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester.
Pd(Ph3)4 (347 mg, 0.3 mmol) and PdCl2(Ph3)2 (210 mg, 0.3 mmol) were added to a mixture 2,7-dibromo-9,10-dihydro-phenanthrene (2.5 g, 7.4 mmol) and tributyl(1-ethoxyvinyl)tin (2.5 mL, 7.4 mL) in 70 mL dioxane. The reaction mixture was flushed with nitrogen, heated at 80° C. for 16 hours, then cooled to ambient temperature. Water (20 mL) and NBS (1.39 g, 7.8 mmol) were added and the mixture was stirred at room temperature for 40 minutes, then diluted with ethyl acetate (300 mL). Washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was suspended in acetonitrile (70 mL). To it was added a solution of pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (3.2 g, 14.9 mmol) and DIPEA (2.4 mL, 14.1 mmol) in 20 mL acetonitrile. The mixture was stirred at room temperature for 16 hours, then diluted with ethyl acetate (300 mL). The organic layer was washed with NaHCO3 solution and water, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product pyrrolidine-1,2-dicarboxylic acid 2-[2-(7-bromo-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester as a white solid (1.76 g, 46% over two steps). m/z 514.2, 516.2 (M+H)+.

reactant | 2,7-dibromo-9,10-dihydro-phenanthrene | 7.4 mmol, 2.5 g | BrC1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C14H10Br2
reactant | tributyl(1-ethoxyvinyl)tin | 2.5 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | NBS | 7.8 mmol, 1.39 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 14.9 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | DIPEA | 14.1 mmol, 2.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 20 mL | O | H2O
product | pyrrolidine-1,2-dicarboxylic acid 2-[2-(7-bromo-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C26H28BrNO5
